US04060613
2-Piperidino-3-(1-naphthyloxy)-1-propanol (1; Ar = 1-naphthyl, R1 = H and NR2R3 = piperidino)
A suspension of 2-piperidino-3-(1-naphthyloxy)-1-propanol acetate (6.4 g), 15% KOH in methanol (10 ml), methanol (10 ml) and water (20 ml) is heated at reflux for 1 hour. The reaction mixture is concentrated to dryness. The residue is taken up in diethyl ether. The ether extract is washed with water and concentrated to give the title compound as an oil, γmaxEtOH 319 nm (ε = 1780), 305 nm (ε = 3330), 288 nm (ε = 6340), 230 nm (ε = 30,600), 212 nm (ε = 44,180).

reactant | 2-piperidino-3-(1-naphthyloxy)-1-propanol acetate | 6.4 g | C(C)(=O)OCC(COC1=CC=CC2=CC=CC=C12)N1CCCCC1 | C20H25NO3
reactant | KOH | [OH-].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 2-Piperidino-3-(1-naphthyloxy)-1-propanol | N1(CCCCC1)C(CO)COC1=CC=CC2=CC=CC=C12 | C18H23NO2
